### PR TITLE
[Merged by Bors] - feat(NumberTheory): a carmichael number has at least 3 prime factors

### PR DESCRIPTION
**Pull request by felixpernegger**
This is pretty easy on paper. The main source of the diff come from the mathematically trivial lemmas added in Mathlib/Data/Nat/Squarefree.lean. Maybe they can still be golfed a bit.

Using this (and an implementation of the Sieve of Eratosthenes for [Nat.primesBelow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/PrimeCounting.html#Nat.primesBelow)!) one will eventually be able to prove relatively quickly that all Carmichael numbers below some threshold are the numbers XYZ

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Prime/Defs.lean [hunk 1]
```diff
@@ -297,6 +297,9 @@ theorem minFac_le_of_dvd {n : ℕ} : ∀ {m : ℕ}, 2 ≤ m → m ∣ n → minF
   · exact fun m2 _ => n1.symm ▸ le_trans (by simp) m2
   · apply (minFac_has_prop n1).2.2
 
+theorem minFac_lt {n a : ℕ} (ha : 2 ≤ a) (an : a ∣ n) (ne : n.minFac ≠ a) : n.minFac < a :=
```
Comment (tb65536) [inline Mathlib/Data/Nat/Prime/Defs.lean]: I'm not sure this combination of `lt_of_le_of_ne` and `minFac_le_of_dvd` is a great lemma to have. It just feels strange to write `(ne : n.minFac ≠ a) : n.minFac < a` when that is just a roundabout way of saying `<=`.

Comment (felixpernegger) [reply Mathlib/Data/Nat/Prime/Defs.lean]: So better inline it?

Comment (tb65536) [reply Mathlib/Data/Nat/Prime/Defs.lean]: Yeah, I think so

File: Mathlib/Data/Nat/Squarefree.lean [hunk 2]
```diff
@@ -343,6 +343,61 @@ lemma prod_primeFactors_of_squarefree (hn : Squarefree n) : ∏ p ∈ n.primeFac
...
+    apply (Nat.mul_right_inj (a := n.minFac) (by grind [sq.ne_zero])).mp
+    rw [Nat.mul_div_cancel' (minFac_dvd n), ← a_eq, ← prod_primeFactors_of_squarefree sq, nab,
+      Finset.prod_pair ab]
+  rw [nab, a_eq, b_eq]
+
+theorem squarefree_and_primeFactors_card_two_iff (n : ℕ) :
+    Squarefree n ∧ (primeFactors n).card = 2
+      ↔ ∃ p q : ℕ, p < q ∧ p.Prime ∧ q.Prime ∧ p * q = n := by
+  refine ⟨fun ⟨sq, nc⟩ ↦ ?_, fun ⟨p, q, pq, hp, hq, hn⟩ ↦ ?_⟩
+  · refine ⟨n.minFac, n / n.minFac, ?_⟩
```
Comment (tb65536) [inline Mathlib/Data/Nat/Squarefree.lean]: For the forward direction, why not take `p` and `q` to be the two elements of `primeFactors n` (e.g., the min and the max)?

Comment (felixpernegger) [reply Mathlib/Data/Nat/Squarefree.lean]: thanks this is much much better!

File: Mathlib/Data/Nat/Squarefree.lean [hunk 3]
```diff
@@ -343,6 +343,26 @@ lemma prod_primeFactors_of_squarefree (hn : Squarefree n) : ∏ p ∈ n.primeFac
   rw [← toFinset_factors, List.prod_toFinset _ hn.nodup_primeFactorsList,
     List.map_id', Nat.prod_primeFactorsList hn.ne_zero]
 
+theorem squarefree_and_primeFactors_card_two_iff (n : ℕ) :
+    Squarefree n ∧ (primeFactors n).card = 2
+      ↔ ∃ p q : ℕ, p < q ∧ p.Prime ∧ q.Prime ∧ p * q = n := by
+  refine ⟨fun ⟨sq, nc⟩ ↦ ?_, fun ⟨p, q, pq, hp, hq, hn⟩ ↦ ?_⟩
+  · have nn : n.primeFactors.Nonempty := by
```
Comment (tb65536) [inline Mathlib/Data/Nat/Squarefree.lean]: Would it be simpler to use `Finset.card_eq_two` directly?

Comment (felixpernegger) [reply Mathlib/Data/Nat/Squarefree.lean]: yes, thanks again

File: Mathlib/Data/Finset/Max.lean [hunk 4]
```diff
@@ -186,6 +186,12 @@ theorem min'_lt_max'_of_card (h₂ : 1 < card s) :
   rcases one_lt_card.1 h₂ with ⟨a, ha, b, hb, hab⟩
   exact s.min'_lt_max' ha hb hab
 
+theorem eq_min'_max'_of_card_two {s : Finset α} (hs : s.card = 2) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finset/Max.lean]:
```suggestion
theorem eq_min'_max'_of_card_eq_two {s : Finset α} (hs : s.card = 2) :
```

File: Mathlib/Data/Finset/Max.lean [hunk 5]
```diff
@@ -186,6 +186,12 @@ theorem min'_lt_max'_of_card (h₂ : 1 < card s) :
...
+    s = {s.min' (Finset.card_pos.mp (by grind)), s.max' (Finset.card_pos.mp (by grind))} := by
+  refine ((Finset.subset_iff_eq_of_card_le ?_).mp ?_).symm
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finset/Max.lean]: Maybe with `Finset.eq_of_superset_of_card_ge`?

File: Mathlib/Data/Finset/Max.lean [hunk 6]
```diff
@@ -186,6 +186,12 @@ theorem min'_lt_max'_of_card (h₂ : 1 < card s) :
...
+  · simp [hs, (card_pair_eq_two_iff.mpr (min'_lt_max'_of_card s (by grind)).ne).symm.le]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finset/Max.lean]:
```suggestion
  · simp [hs, (card_pair_eq_two_iff.mpr (min'_lt_max'_of_card s (by grind)).ne)]
```

File: Mathlib/Data/Nat/Squarefree.lean [hunk 7]
```diff
@@ -343,6 +343,20 @@ lemma prod_primeFactors_of_squarefree (hn : Squarefree n) : ∏ p ∈ n.primeFac
   rw [← toFinset_factors, List.prod_toFinset _ hn.nodup_primeFactorsList,
     List.map_id', Nat.prod_primeFactorsList hn.ne_zero]
 
+theorem squarefree_and_primeFactors_card_two_iff (n : ℕ) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Squarefree.lean]:
```suggestion
theorem squarefree_and_primeFactors_card_eq_two_iff (n : ℕ) :
```

File: Mathlib/Data/Nat/Squarefree.lean [hunk 8]
```diff
@@ -343,6 +343,20 @@ lemma prod_primeFactors_of_squarefree (hn : Squarefree n) : ∏ p ∈ n.primeFac
...
+  refine ⟨fun ⟨sq, nc⟩ ↦ ?_, fun ⟨p, q, pq, hp, hq, hn⟩ ↦ ?_⟩
+  · obtain ⟨p, q, pq, eq⟩ := Finset.card_eq_two.mp nc
+    wlog pq' : p < q
+    · exact this n ⟨sq, nc⟩ sq nc q p pq.symm (by grind) (by grind)
+    refine ⟨p, q, pq', prime_of_mem_primeFactors (n := n) (by grind),
+      prime_of_mem_primeFactors (n := n) (by grind), ?_⟩
+    grind [prod_primeFactors_of_squarefree sq, Finset.eq_min'_max'_of_card_two nc]
+  · rw [← hn, squarefree_mul <| (coprime_primes hp hq).mpr pq.ne,
+      primeFactors_mul hp.ne_zero hq.ne_zero, hp.primeFactors, hq.primeFactors]
+    exact ⟨⟨(prime_iff.mp hp).squarefree, (prime_iff.mp hq).squarefree⟩, by grind⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Squarefree.lean]:
```suggestion
    exact ⟨⟨hp.squarefree, hq.squarefree⟩, by grind⟩
```
(`Irreducible.squarefree`)

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 9]
```diff
@@ -139,6 +140,29 @@ theorem isCarmichael_iff_korselt :
   rw [probablePrime_iff_zmod_one n (by grind), ← ZMod.coe_unitOfCoprime b hb,
     ← Units.val_pow_eq_pow_val, hd, pow_mul, pow_carmichael, one_pow, Units.val_one]
 
+theorem IsCarmichael.primeFactors_card_ge_three (h : IsCarmichael n) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]: Definitely
```suggestion
theorem IsCarmichael.card_primeFactors_ge_three (h : IsCarmichael n) :
```
and maybe
```suggestion
theorem IsCarmichael.three_le_card_primeFactors (h : IsCarmichael n) :
```

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 10]
```diff
@@ -139,6 +140,29 @@ theorem isCarmichael_iff_korselt :
...
+    3 ≤ n.primeFactors.card := by
+  by_contra! h0
+  set a := n.primeFactors.card
+  have hn : n.primeFactors.card = a := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
  set a := n.primeFactors.card with hn
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

File: Mathlib/NumberTheory/CarmichaelNumber.lean (hunk 10 above)
Comment (felixpernegger) [reply Mathlib/NumberTheory/CarmichaelNumber.lean]: thanks i didnt know you can do this

File: Mathlib/Data/Nat/Squarefree.lean [hunk 11]
```diff
@@ -343,6 +343,20 @@ lemma prod_primeFactors_of_squarefree (hn : Squarefree n) : ∏ p ∈ n.primeFac
...
+theorem squarefree_and_primeFactors_card_eq_two_iff (n : ℕ) :
+    Squarefree n ∧ (primeFactors n).card = 2
+      ↔ ∃ p q : ℕ, p < q ∧ p.Prime ∧ q.Prime ∧ p * q = n := by
+  refine ⟨fun ⟨sq, nc⟩ ↦ ?_, fun ⟨p, q, pq, hp, hq, hn⟩ ↦ ?_⟩
+  · obtain ⟨p, q, pq, eq⟩ := Finset.card_eq_two.mp nc
+    wlog pq' : p < q
+    · exact this n ⟨sq, nc⟩ sq nc q p pq.symm (by grind) (by grind)
+    refine ⟨p, q, pq', prime_of_mem_primeFactors (n := n) (by grind),
+      prime_of_mem_primeFactors (n := n) (by grind), ?_⟩
+    grind [prod_primeFactors_of_squarefree sq, Finset.eq_min'_max'_of_card_two nc]
```
Comment (tb65536) [inline Mathlib/Data/Nat/Squarefree.lean]: Do you really need `eq_min'_max'_of_card_two` here? Don't you already have `primeFactors = {p, q}`?

Comment (tb65536) [reply Mathlib/Data/Nat/Squarefree.lean]:
```suggestion
    rw [← prod_primeFactors_of_squarefree sq, eq, prod_insert (by simpa), prod_singleton]
```

Comment (tb65536) [reply Mathlib/Data/Nat/Squarefree.lean]: (so you don't really need `Finset.eq_min'_max'_of_card_two`)

File: Mathlib/Data/Finset/Max.lean (hunk 5 above)
Comment (felixpernegger) [reply Mathlib/Data/Finset/Max.lean]: surprisingly, that doesnt really shorten the proof

File: Mathlib/Data/Nat/Squarefree.lean [hunk 12]
```diff
@@ -343,6 +343,20 @@ lemma prod_primeFactors_of_squarefree (hn : Squarefree n) : ∏ p ∈ n.primeFac
   rw [← toFinset_factors, List.prod_toFinset _ hn.nodup_primeFactorsList,
     List.map_id', Nat.prod_primeFactorsList hn.ne_zero]
 
+theorem squarefree_and_primeFactors_card_eq_two_iff (n : ℕ) :
+    Squarefree n ∧ (primeFactors n).card = 2
+      ↔ ∃ p q : ℕ, p < q ∧ p.Prime ∧ q.Prime ∧ p * q = n := by
```
Comment (tb65536) [inline Mathlib/Data/Nat/Squarefree.lean]: The `iff` should go on the previous line

File: Mathlib/NumberTheory/CarmichaelNumber.lean [hunk 13]
```diff
@@ -139,6 +140,29 @@ theorem isCarmichael_iff_korselt :
...
+  rw [← pqn] at h
+  have : q ≤ p := by
+    rw [← Nat.sub_add_cancel hp.one_le, ← tsub_le_iff_right]
+    apply le_of_dvd (by simp [hp.one_lt])
+    have eq : (p * q - 1) - p * (q - 1) = p - 1 := by
+      rw [Nat.mul_sub, mul_one, Nat.sub_right_comm,
+        Nat.sub_sub_self (Nat.le_mul_of_pos_right p (zero_lt_of_lt pq))]
+    rw [← eq]
+    exact dvd_sub (h.prime_sub_one_dvd hq (dvd_mul_left q p)) (dvd_mul_left (q - 1) p)
+  order
```
Comment (tb65536) [inline Mathlib/NumberTheory/CarmichaelNumber.lean]:
```suggestion
  obtain ⟨_, _, hs, h⟩ := isCarmichael_iff_korselt.mp h
  have h0 : n.primeFactors.card ≠ 0 := by grind [primeFactors_eq_empty]
  have h1 : n.primeFactors.card ≠ 1 := by
    grind [squarefree_and_prime_pow_iff_prime, isPrimePow_iff_card_primeFactors_eq_one]
  by_contra h3
  have h2 : n.primeFactors.card = 2 := by grind
  obtain ⟨p, q, pq, hp, hq, hn⟩ := (squarefree_and_primeFactors_card_eq_two_iff n).mp ⟨hs, h2⟩
  contrapose! pq
  have eq : p - 1 + (q - 1) * p = p * q - 1 := by zify; grind
  rw [← tsub_le_tsub_iff_right hp.one_le]
  refine le_of_dvd (tsub_pos_of_lt hp.one_lt) ((Nat.dvd_add_left ⟨p, rfl⟩).mp ?_)
  rw [eq, hn]
  exact h q hq (Dvd.intro_left p hn)
```

Comment (felixpernegger) [reply Mathlib/NumberTheory/CarmichaelNumber.lean]: great!

File: Mathlib/Data/Finset/Max.lean [hunk 14]
```diff
@@ -186,6 +186,12 @@ theorem min'_lt_max'_of_card (h₂ : 1 < card s) :
   rcases one_lt_card.1 h₂ with ⟨a, ha, b, hb, hab⟩
   exact s.min'_lt_max' ha hb hab
 
+theorem eq_min'_max'_of_card_eq_two {s : Finset α} (hs : s.card = 2) :
+    s = {s.min' (Finset.card_pos.mp (by grind)), s.max' (Finset.card_pos.mp (by grind))} := by
+  refine ((Finset.subset_iff_eq_of_card_le ?_).mp ?_).symm
+  · simp [hs, (card_pair_eq_two_iff.mpr (min'_lt_max'_of_card s (by grind)).ne)]
+  · grind [Finset.min'_mem, Finset.max'_mem]
+
```
Comment (jcommelin) [inline Mathlib/Data/Finset/Max.lean]: You end up not using this result, so I would suggest dropping it.
```suggestion
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
